US04140775
In the manner given in Example 1B, 1-(p-fluorophenyl)-4-[1-(4-nitrophenyl)propyl]piperazine is reduced with aqueous titanium trichloride to give 1-(4-fluorophenyl)-4-[1-(4-aminophenyl)propyl]piperazine.

reactant | 1-(p-fluorophenyl)-4-[1-(4-nitrophenyl)propyl]piperazine | FC1=CC=C(C=C1)N1CCN(CC1)C(CC)C1=CC=C(C=C1)[N+](=O)[O-] | C19H22FN3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(4-fluorophenyl)-4-[1-(4-aminophenyl)propyl]piperazine | FC1=CC=C(C=C1)N1CCN(CC1)C(CC)C1=CC=C(C=C1)N | C19H24FN3
